US04332734
A. Synthesis of ethyl-2,6-dicyano-3-methyl-2-hexenoate
A mixture of methyl 3-cyanopropyl ketone (55.5 g, 0.5 mole), ethyl cyanoacetate (56.5 g, 0.5 mole), acetic acid (6.0 g, 0.1 mole), ammonium acetate (3.85 g, 0.05 mole) and toluene (50 ml) was refluxed while azeotropically removing the water of reaction formed. After 10 hours the solution was vacuum distilled and a fraction (b.p. 145° C.-153° C., 0.5 torr) was collected. Total yield was 77.0 g or 74.7 percent. Analysis by infrared spectroscopy confirmed the product's identity as:

reactant | methyl 3-cyanopropyl ketone | 0.5 mole, 55.5 g | C(#N)CCCC(=O)C | C6H9NO
reactant | ethyl cyanoacetate | 0.5 mole, 56.5 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | acetic acid | 0.1 mole, 6.0 g | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 0.05 mole, 3.85 g | C(C)(=O)[O-].[NH4+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl-2,6-dicyano-3-methyl-2-hexenoate | C(C)OC(C(=C(CCCC#N)C)C#N)=O | C11H14N2O2
